US06358971B1
2-Amino-3-(2-methoxyphenyl)-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-(2-methoxyphenyl)-6-benzoyl-imidazo[1,2-a]pyridine (7.40 g, 16.8 mmol) was converted to product in a manner substantially analogous to Example 67 to yield 5.0 g. (87%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-(2-methoxyphenyl)-6-benzoyl-imidazo[1,2-a]pyridine | 16.8 mmol, 7.40 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C=CC=C1)OC)(F)F | C23H16F3N3O3
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Amino-3-(2-methoxyphenyl)-6-benzoyl-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C=CC=C1)OC | C21H17N3O2
